US08486952B2
A solution of 2,4-dichloro-7-(4-chlorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (200 mg, 0.668 mmol) and excess dimethylamine (3.34 mL, 6.68 mmol) in MeOH (4 mL) was stirred at rt for 30 min. The solvent was removed in vacuum and the crude product was purified by column chromatography on silica gel to afford 2-chloro-7-(4-chlorophenyl)-N,N-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (98 mg, 0.318 mmol, 47.6% yield). LC-MS (M+H)+=308.1.

reactant | 2,4-dichloro-7-(4-chlorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.668 mmol, 200 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)Cl)Cl | C13H9Cl3N2
reactant | dimethylamine | 6.68 mmol, 3.34 mL | CNC | C2H7N
solvent | MeOH | 4 mL | CO | CH4O
product | 2-chloro-7-(4-chlorophenyl)-N,N-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.318 mmol, 98 mg, 47.6% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)Cl)N(C)C | C15H15Cl2N3
